US08871767B2
methyl 2-(3-(2-fluorophenyl)-6-iminopyridazin-1(6H)-yl)acetate hydrobromide
A stirred solution of 6-(2-fluorophenyl)pyridazin-3-amine (0.500 g, 2.64 mmol) and methyl 2-bromoacetate (2.90 mmol) in acetonitrile (15 mL) is heated at 80° C. for 4 hours. The mixture is cooled to 0° C. and precipitate collected by filtration, washed with cold acetonitrile (2×10 mL) to afford the title compound (0.693 g, 76%) as a white solid: LCMS (m/z)=262.3 [M+H]+, tR=0.47 min.

reactant | 6-(2-fluorophenyl)pyridazin-3-amine | 2.64 mmol, 0.500 g | FC1=C(C=CC=C1)C1=CC=C(N=N1)N | C10H8FN3
reactant | methyl 2-bromoacetate | 2.90 mmol | BrCC(=O)OC | C3H5BrO2
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | methyl 2-(3-(2-fluorophenyl)-6-iminopyridazin-1(6H)-yl)acetate hydrobromide | 0.693 g, 76% | Br.FC1=C(C=CC=C1)C1=NN(C(C=C1)=N)CC(=O)OC | InChI=1S/C13H12FN3O2.BrH/c1-19-13(18)8-17-12(15)7-6-11(16-17)9-4-2-3-5-10(9)14;/h2-7,15H,8H2,1H3;1H
